US04304642
The procedure of Example 1 was repeated using diphenyldisulphide (200 mg) in acetonitrile containing cyclohexene (405 mg) at 1.40 volts until the passage of 2 coulomb equivalents of charge. After the addition of water and extraction with diethyl ether, there was obtained 115 mg of 2-acetamido-1-phenylthio-cyclohexane (melting point 132°-133° C.). Mass Spec. m/e 249 (parent ion). I.R. 3320 & 1648 cm-1.

reactant | diphenyldisulphide | 200 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | cyclohexene | 405 mg | C1=CCCCC1 | C6H10
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-acetamido-1-phenylthio-cyclohexane | 115 mg | C(C)(=O)NC1C(CCCC1)SC1=CC=CC=C1 | C14H19NOS
